US06960575B2
(2RS,3S)-3-Amino-1-(tert-butyldimethylsilyl)oxy-4-phenyl-2-butanol (Reference compound No. 16-1)
5% Palladium-carbon (130 mg) is added to a solution of (2RS,3S)-3-(benzyloxycarbonyl)amino-1-(tert-butyldimethylsilyl)oxy-4-phenyl-2-butanol (130 mg, Reference compound No. 15-1) in methanol (5 ml), and the mixture is stirred under a hydrogen atmosphere (1 atm) for three hours. The reaction mixture is filtered to remove the catalyst. The filtrate is concentrated under reduced pressure to give the titled reference compound (89.2 mg).

reactant | (2RS,3S)-3-(benzyloxycarbonyl)amino-1-(tert-butyldimethylsilyl)oxy-4-phenyl-2-butanol | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CO[Si](C)(C)C(C)(C)C)O)CC1=CC=CC=C1 | C24H35NO4Si
solvent | methanol | 5 ml | CO | CH4O
catalyst | Palladium-carbon | 130 mg | [C].[Pd]
product | (2RS,3S)-3-Amino-1-(tert-butyldimethylsilyl)oxy-4-phenyl-2-butanol | 89.2 mg | N[C@H](C(CO[Si](C)(C)C(C)(C)C)O)CC1=CC=CC=C1 | C16H29NO2Si
